US08629271B2
a) 2-(4-(Bromomethyl)phenyl)ethanol
Borane dimethylsulphide complex (2M in THF, 4.37 mL) was added dropwise to a solution of 2-(4-(bromomethyl)phenyl)acetic acid (1.0 g) in THF (20 mL) at 20° C. and the mixture stirred for 1 hour. Methanol was added dropwise until bubbling ceased and the solvent evaporated in vacuo. Purification was by silica gel chromatography eluting with 30% ethyl acetate in isohexane. The fractions containing product were combined and evaporated in vacuo to give the subtitled compound as a white crystalline solid. Yield 0.86 g.

reactant | Borane dimethylsulphide | 2M, 4.37 mL | CSC.B
reactant | 2-(4-(bromomethyl)phenyl)acetic acid | 1.0 g | BrCC1=CC=C(C=C1)CC(=O)O | C9H9BrO2
reactant | Methanol | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(4-(Bromomethyl)phenyl)ethanol | BrCC1=CC=C(C=C1)CCO | C9H11BrO
